US05223539
N-cyclohexyl-N-methyl-4-[(3,4,5-trimethoxyphenoxy)methyl]benzamide
The reaction and workup were carried out in the same manner as for Example 21 using K2CO3 (576 mg, 4.17 mmol), 4-bromomethylbenzoic acid N-methyl-N-cyclohexyl amide (1.124 g, 3.62 mmol) and 3,4,5-trimethoxyphenol (648 mg, 3.52 mmol). The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from ethyl acetate and hexane, m. pt. 115.53° C. (DSC).

reactant | K2CO3 | 4.17 mmol, 576 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromomethylbenzoic acid N-methyl-N-cyclohexyl amide | 3.62 mmol, 1.124 g | CN(C(C1=CC=C(C=C1)CBr)=O)C1CCCCC1 | C15H20BrNO
reactant | 3,4,5-trimethoxyphenol | 3.52 mmol, 648 mg | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
product | N-cyclohexyl-N-methyl-4-[(3,4,5-trimethoxyphenoxy)methyl]benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)COC1=CC(=C(C(=C1)OC)OC)OC)=O)C | C24H31NO5
